US07662771B2
5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester
Combine 5-[4-(2-nitro-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (2.5 g, 8.2 mmol) with 5% Pd/C (300 mg) and Pd/black (50 mg) in THF and react with hydrogen (init. 39 psi) in a Parr® apparatus. When reduction is complete, filter the mixture through, Celite® and concentrate the filtrate. Chromatograph the residue over silica gel (MeOH/CH2Cl2) to allow for recovery of 2.05 g (91%) of 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester. MS (ES): (M+1)+ 275.1, 276.2 m/z.

reactant | 5-[4-(2-nitro-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 8.2 mmol, 2.5 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H16N2O5
reactant | hydrogen | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 300 mg | [Pd] | Pd
catalyst | Pd | 50 mg | [Pd] | Pd
product | 5-[4-(2-amino-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C15H18N2O3
